US08182718B2
Ham=2-(1H-Benzimidazol-1-yl)ethanol
To a flask were added 2.3 g benzimidazole and 40 ml tetrahydrofuran and the mixture was cooled to 10 C under nitrogen. 1.0 g Sodium hydride were added in portions and the reaction mixture was stirred for 20 minutes. 4.0 g 2-Iodoethanol were added and the mixture was heated to 5° C. for 16 hours. The mixture was quenched slowly with 50 ml water, extracted twice with ethyl acetate and dried over sodium sulfate. Following filtration and solvent removal, the product was purified by silica gel chromatography using 25% methanol in ethyl acetate. A solid was obtained that was dissolved in a hot mixture of 10% methanol in ethyl acetate, cooled, filtered and dried giving 1.4 g white solid.

reactant | benzimidazole | 2.3 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | Sodium hydride | 1.0 g | [H-].[Na+]
reactant | 2-Iodoethanol | 4.0 g | ICCO | C2H5IO
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1H-Benzimidazol-1-yl)ethanol | 1.4 g | N1(C=NC2=C1C=CC=C2)CCO | C9H10N2O
